US08895745B2
Step 1: 4-(4-Bromo-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(4-Bromo-phenoxy)-piperidine (1 g, 3.9 mmol) in dioxane (20 ml), water (20 ml) added Na2CO3 (1.6 g, 18.9 mmol) and (BOC)2O (1.3 g, 5.9 mmol). Reaction stirred at ambient for 48 hours, solvent was removed under reduced pressure and residue partitioned between EtOAc and water the layers were separated. The organic layer was washed with brine, dried (MgSO4), and concentrated under reduced pressure to give (1.2 g) of product.

reactant | 4-(4-Bromo-phenoxy)-piperidine | 3.9 mmol, 1 g | BrC1=CC=C(OC2CCNCC2)C=C1 | C11H14BrNO
reactant | Na2CO3 | 18.9 mmol, 1.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (BOC)2O | 5.9 mmol, 1.3 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 4-(4-Bromo-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)Br | C16H22BrNO3
